US08426420B2
i) (S)-2-tert-Butoxycarbonylamino-5-hydroxy-pentanoic acid benzyl ester
To a solution of 7.0 g Boc-Glu-OBn in 100 ml THF were added dropwise under Argon at −10° C. 2.9 ml N-ethylmorpholine and 3.0 ml isobutyl chloroformate. The reaction mixture was stirred for 10 minutes before 2.4 g sodium borohydride were added. Methanol (400 ml) was added slowly over a period of 70 minutes at this temperature. It was stirred for additional 30 minutes at RT before being neutralized with 1 N HCl. The mixture was concentrated, dissolved in ethyl acetate and washed with 1 N HCl and brine. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using an ethyl acetate/heptane gradient. Yield: 5.3 g.

reactant | Boc-Glu-OBn | 7.0 g | N([C@@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H23NO6
reactant | N-ethylmorpholine | 2.9 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutyl chloroformate | 3.0 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 2.4 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Methanol | 400 ml | CO | CH4O
product | (S)-2-tert-Butoxycarbonylamino-5-hydroxy-pentanoic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CCCO)NC(=O)OC(C)(C)C)=O | C17H25NO5
